US07319099B2
(d) 1-(4-Oxazol-2-yl-phenyl)-piperazine hydrochloride
Prepared in analogy to example 4.4 (b) from 4-(4-Oxazol-2-yl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester and hydrochloric acid in dioxane. MS (m/e): 230.1 (MH+, 100%)

reactant | 4-(4-Oxazol-2-yl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1OC=CN1 | C18H23N3O3
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(4-Oxazol-2-yl-phenyl)-piperazine hydrochloride | Cl.O1C(=NC=C1)C1=CC=C(C=C1)N1CCNCC1 | InChI=1S/C13H15N3O.ClH/c1-3-12(16-8-5-14-6-9-16)4-2-11(1)13-15-7-10-17-13;/h1-4,7,10,14H,5-6,8-9H2;1H
